US04636506
6-(2,6-Difluoro-3-nitrophenyl)-quinoline
The title compound was prepared by the method of Example 1B. A 5.00 g sample (70% yield) was made from 6-(2,6-difluorophenyl)-quinoline (6.02 g, 25 mmoles) and 50 ml of concentrated H2SO4 and 1.5 ml of concentrated HNO3. The product was isolated as an off white solid of m.p. 152°-153° C. NMR (DMSO-d6, 250 MHz): 9.05 (d of d, 1H), 8.50 (d, J=5 Hz, 1H), 8.40 (sextet, 1H), 8.24 (s, 1H), 8.20 (d, J=5.0 Hz, 1H), 7.87 (d, J=5.0 Hz, 1H), 7.60 (m, 2H).

reactant | 6-(2,6-difluorophenyl)-quinoline | 25 mmoles, 6.02 g | FC1=C(C(=CC=C1)F)C=1C=C2C=CC=NC2=CC1 | C15H9F2N
reactant | HNO3 | 1.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 6-(2,6-Difluoro-3-nitrophenyl)-quinoline | 70% yield | FC1=C(C(=CC=C1[N+](=O)[O-])F)C=1C=C2C=CC=NC2=CC1 | C15H8F2N2O2
